US08735417B2
1,3-Dinitrobenzene (25 g, 149 mmol) was dissolved in sulfuric acid (44.5 mL, 835 mmol) and NBS (31.8 g, 178 mmol) was added. The mixture was stirred at 60° C. for 2 days. The reaction was cooled to ambient temperature and the mixture was poured into ice water to form a precipitate. The product was collected by filtration, washed with water and hexanes to yield 35.1 g (142 mmol, 96%) of 1-bromo-3,5-dinitrobenzene as a beige solid.

reactant | 1,3-Dinitrobenzene | 149 mmol, 25 g | [N+](=O)([O-])C1=CC(=CC=C1)[N+](=O)[O-] | C6H4N2O4
reactant | sulfuric acid | 835 mmol, 44.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | NBS | 178 mmol, 31.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | 1-bromo-3,5-dinitrobenzene | 142 mmol, 35.1 g, 96% | BrC1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3BrN2O4
